US05159061
(XI) Production of Boc-Ala-Gln-Ser-Gly-Leu-Gly-OH
1.50 g Boc-Ala-Gln-Ser(Bzl)-Gly-Leu-Gly-OBzl was dissolved in 100 ml AcOH and subjected to 8 hours of catalytic reduction in the presence of Pd-black as a catalyst. After filtering the catalyst, the reduced solution was concentrated; the resulting residue was precipitated with ether and collected by filtration.

reactant | Boc-Ala-Gln-Ser(Bzl)-Gly-Leu-Gly-OBzl | 1.50 g | N([C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C40H57N7O11
solvent | AcOH | 100 ml | CC(=O)O | C2H4O2
catalyst | Pd | [Pd] | Pd
product | Boc-Ala-Gln-Ser-Gly-Leu-Gly-OH | N([C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CO)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C26H45N7O11
